US07312225B2
4b) Production of 2,4-Dichloro-pyrimidine-5-carboxylic acid-tert-butylamide
A solution of 24.85 g (117.5 mmol) of 2,4-dichloro-pyrimidine-5-carbonyl chloride in 125 ml of THF is cooled to −15° C. It is slowly mixed with a solution of 13.2 ml (124.5 mmol) of tert-buylamine and 17.4 ml (125.7 mmol) of triethylamine in 50 ml of THF, so that the temperature of the reaction mixture remains less than −10° C. It is stirred for another 2 hours at −10° C., then the cooling bath is removed, and the reaction mixture is heated to room temperature while being stirred. After 1 hour, the precipitate that is formed is filtered off, and the filtrate is completely concentrated by evaporation. The residue that is obtained is purified by chromatography (hexane/ethyl acetate 4:1). 14.01 g (56.6 mmol, corresponding to 50% of theory) of the product is obtained.

reactant | 2,4-dichloro-pyrimidine-5-carbonyl chloride | 117.5 mmol, 24.85 g | ClC1=NC=C(C(=N1)Cl)C(=O)Cl | C5HCl3N2O
reactant | tert-buylamine | 124.5 mmol, 13.2 ml | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 125.7 mmol, 17.4 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2,4-Dichloro-pyrimidine-5-carboxylic acid-tert-butylamide | C(C)(C)(C)NC(=O)C=1C(=NC(=NC1)Cl)Cl | C9H11Cl2N3O
